US08633313B2
A solution of (S)-tert-butyl 1-(methoxy(methyl)amino)-1-oxopropan-2-ylcarbamate (1.16 g, 5 mmol) in THF (10 mL) was cooled to −15° C. and slowly charged with isopropylmagnesium chloride (2.0M, 2.37 mL, 0.95 eq). After a clear solution was obtained, benzylmagnesium chloride (1.0M, 4.99 mL, 1.0 eq) was added dropwise with stirring at rt overnight. The reaction mixture was quenched with NH4Cl solution and extracted with EtOAc (10 mL×2). The combined organic layers were washed with water, brine, dried over sodium sulfate before being filtered, concentrated to give a white solid as (S)-tert-butyl 3-oxo-4-phenylbutan-2-ylcarbamate. Mass Spectrum (ESI) m/e=264 (M+1).

reactant | (S)-tert-butyl 1-(methoxy(methyl)amino)-1-oxopropan-2-ylcarbamate | 5 mmol, 1.16 g | CON(C([C@H](C)NC(OC(C)(C)C)=O)=O)C | C10H20N2O4
reactant | isopropylmagnesium chloride | 2.0M, 2.37 mL, 0.95 eq | C(C)(C)[Mg]Cl
reactant | benzylmagnesium chloride | 1.0M, 4.99 mL, 1.0 eq | C(C1=CC=CC=C1)[Mg]Cl
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | (S)-tert-butyl 3-oxo-4-phenylbutan-2-ylcarbamate | O=C([C@H](C)NC(OC(C)(C)C)=O)CC1=CC=CC=C1 | C15H21NO3
